US07157488B2
6-Fluorotryptamine
Combine 2-(6-fluoro-1H-indol-3-yl)acetonitrile (165 g, 0.925 mol) and THF (1.32 L). Slowly add 1M solution of BH3 (2.042 L, 1,832 Kg, 0.131 mol) in THF over about 40 minutes. When the addition is complete, heat to reflux within 1 hour. After 1 hour at reflux, cool to room temperature and the reaction mixture, over about 25 minutes, to a well-stirred 15% aqueous solution of NaOH (1.9 L, 9.5 mol). After addition, slowly and gradually heat to 50° C. After 1 hour, heat 60° C. After 30 minutes, heat to reflux for 1 hour. Cool to room temperature and stir overnight, decant the alkaline aqueous layer and replace by water. Heat to 30° C. under a pressure of 200 mbars in order to distill the THF until about 2.5 kg of distilate is removed. Extract the mixture with dichloromethane. Slowly add to the combined organic layers over a 25 minutes a mixture of 37% aqueous HCl (143 g) and water (220 g) and stir to give a solid. After 1 hour, collect the solid by filtration, wash with of dichloromethane, and dry overnight to afford of the hydrochloride salt of the title compound.

reactant | 2-(6-fluoro-1H-indol-3-yl)acetonitrile | 0.925 mol, 165 g | FC1=CC=C2C(=CNC2=C1)CC#N | C10H7FN2
reactant | NaOH | 9.5 mol, 1.9 L | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.32 L | C1CCOC1 | C4H8O
product | 6-Fluorotryptamine | FC=1C=C2NC=C(CCN)C2=CC1 | C10H11FN2
